US06844345B2
b) (R)-4,7-Dimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
To a solution of 1.52 g (R)-8-bromo-4,7-dimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester in 15 ml, ethanol was added 0.15 g 10% palladium on charcoal and the mixture was stirred under a hydrogen atmosphere for 6 h. A further 0.15 g 10% palladium on charcoal was added and the mixture was stirred a further 6 h under a hydrogen atmosphere. Again 0.15 g 10% palladium on charcoal was added and the mixture was stirred a further 6 h under a hydrogen atmosphere. The catalyst was removed by filtration over dicalite and the filtrate was evaporated. The residue was purified by chromatography on silica gel with 4:1 hexane:ethyl acetate to yield 0.59 g of the title compound as a white foam. MS: (M+H)=301.3.

reactant | (R)-8-bromo-4,7-dimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 1.52 g | C(C)(C)(C)OC(=O)N1CC=2N(C=3C=C(C(=CC3C2)Br)C)[C@@H](C1)C | C18H23BrN2O2
catalyst | palladium on charcoal | 0.15 g | [Pd] | Pd
catalyst | palladium on charcoal | 0.15 g | [Pd] | Pd
catalyst | palladium on charcoal | 0.15 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | (R)-4,7-Dimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.59 g | C(C)(C)(C)OC(=O)N1CC=2N(C=3C=C(C=CC3C2)C)[C@@H](C1)C | C18H24N2O2
